### PR TITLE
[Merged by Bors] - chore: rename pow_eq_zero to eq_zero_of_pow_eq_zero

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
For consistency with eq_zero_of_zpow_eq_zero.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
`pow_eq_zero` is the misnamed one here!

File: Mathlib/Algebra/Quaternion.lean [hunk 1]
```diff
@@ -1266,7 +1266,11 @@ theorem normSq_eq_zero : normSq a = 0 ↔ a = 0 := by
   refine ⟨fun h => ?_, fun h => h.symm ▸ normSq.map_zero⟩
   rw [normSq_def', add_eq_zero_iff_of_nonneg, add_eq_zero_iff_of_nonneg, add_eq_zero_iff_of_nonneg]
     at h
-  · exact ext a 0 (pow_eq_zero h.1.1.1) (pow_eq_zero h.1.1.2) (pow_eq_zero h.1.2) (pow_eq_zero h.2)
+  · exact ext a 0
+      (eq_zero_of_pow_eq_zero h.1.1.1)
+      (eq_zero_of_pow_eq_zero h.1.1.2)
+      (eq_zero_of_pow_eq_zero h.1.2)
+      (eq_zero_of_pow_eq_zero h.2)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Quaternion.lean]: What about
```suggestion
  · apply ext a 0 <;> apply eq_zero_of_pow_eq_zero
    exacts [h.1.1.1, h.1.1.2, h.1.2, h.2]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by sgouezel** [comment]
bors d+

**Comment by Ruben-VandeVelde** [comment]
bors merge
